US06342610B2
To a solution of 2-(3,4-methylenedioxy)phenylacetic acid (5 g, 25.75 mmol) in anhydrous THF (20 ml) at 0° C. was added BH3 THF (40 ml, 1.0 M in THF). The mixture was stirred at room temperature for 1 h. To work up, THF was evaporated on a rotavap. The residue was treated with water (100 ml) Acidified and extracted with ether (2×100 ml). Removal of the solvent under reduced pressure gave 2-(3,4-methylenedioxy)phenyl-1-ethanol as an oil (4.7 g, 98% yield).

reactant | 2-(3,4-methylenedioxy)phenylacetic acid | 25.75 mmol, 5 g | C1OC=2C=C(C=CC2O1)CC(=O)O | C9H8O4
reactant | THF | 20 ml | C1CCOC1 | C4H8O
reactant | THF | 1.0 M, 40 ml | C1CCOC1 | C4H8O
product | 2-(3,4-methylenedioxy)phenyl-1-ethanol | 4.7 g, 98% yield | C1OC=2C=C(C=CC2O1)C(C)O | C9H10O3
